US07238808B2
5-[5-(4-Chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
The title compound was prepared from 5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.6) (63 mg, 0.25 mmol) and 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (77 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (74 mg, 62%). MS (ISP) 482.0 [(M+H)+]; mp 185–186° C.

reactant | 5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 63 mg | ClC1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C#C | C14H8ClN3
reactant | 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.25 mmol, 77 mg | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O3S
product | 5-[5-(4-Chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C#CC=1C=NN2C1N=C(C=C2)C2=CC=C(C=C2)Cl | C23H20ClN5O3S
